### PR TITLE
[Merged by Bors] - refactor: redefine `Absorbs`

### PR DESCRIPTION
**Pull request by urkud**
Redefine `Absorbs` and `Absorbent` in terms of the `cobounded` filter.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 1]
```diff
@@ -0,0 +1,245 @@
...
+
+/-- A set `s` absorbs another set `t` if `t` is contained in all scalings of `s`
+by all but a bounded set of elements. -/
+def Absorbs (s t : Set α) : Prop :=
+  ∀ᶠ a in cobounded M, t ⊆ a • s
+#align absorbs Absorbs
+
+/-- A set is *absorbent* if it absorbs every singleton. -/
+def Absorbent (s : Set α) : Prop :=
+  ∀ x : α, Absorbs M s {x}
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:46]: nit
```suggestion
  ∀ x, Absorbs M s {x}
```

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 2]
```diff
@@ -0,0 +1,245 @@
...
+@[simp]
+lemma absorbs_neg_neg {s t : Set E} : Absorbs M (-s) (-t) ↔ Absorbs M s t := by simp [Absorbs]
+
+alias ⟨Absorbs.of_neg_neg, Absorbs.neg_neg⟩ := absorbs_neg_neg
+#align absorbs.neg Absorbs.neg_neg
+
+lemma Absorbs.sub {s₁ s₂ t₁ t₂ : Set E} (h₁ : Absorbs M s₁ t₁) (h₂ : Absorbs M s₂ t₂) :
+    Absorbs M (s₁ - s₂) (t₁ - t₂) := by
+  simpa only [sub_eq_add_neg] using h₁.add h₂.neg_neg
+#align absorbs.sub Absorbs.sub
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:203]: Can you multiplicativise this?

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 3]
```diff
@@ -0,0 +1,245 @@
...
+#align absorbs.mono_right Absorbs.mono_right
+
+lemma mono {s' t'} (h : Absorbs M s t) (hs : s ⊆ s') (ht : t' ⊆ t) : Absorbs M s' t' :=
+  (h.mono_left hs).mono_right ht
+#align absorbs.mono Absorbs.mono
+
+@[simp]
+lemma _root_.absorbs_union {t₁ t₂} : Absorbs M s (t₁ ∪ t₂) ↔ Absorbs M s t₁ ∧ Absorbs M s t₂ := by
+  simp [Absorbs]
+#align absorbs_union absorbs_union
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:79]: Could you extract more variables to the `variable` statement and make up your mind between using `t`, `t'` vs `t₁`, `t₂` (if you ask me, I prefer the latter)?

Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean]: AFAIR, I copied lemmas from different places. Thank you, fixed!

File: Mathlib/Topology/Bornology/Absorbs.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean:196]: What assumptions do you have in mind? `MulDistribMulAction`? Something else? I assumed that we're going to use `Absorbs` only for (generalizations of) modules.

Comment (YaelDillies) [reply Mathlib/Topology/Bornology/Absorbs.lean:196]: I was thinking `MulDistribMulAction`. If you think that's nonsensical (because it would never be used in applications), I'm happy for you to say so in an implementation note.

However I suspect it might be useful for geometric group theory, where groups are usually multiplicative and we care about the growth of iterated products of sets (and there `Absorbs` means the same as "is contained in the subgroup closure" if I'm not wrong).

Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean:196]: I'm going to add an implementation note saying that we'll add `MulDistribMulAction` versions when someone needs them.

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 4]
```diff
@@ -251,13 +251,13 @@ theorem TotallyBounded.isVonNBounded {s : Set E} (hs : TotallyBounded s) :
...
-  refine' Absorbs.mono_right _ hs
-  rw [ht.absorbs_iUnion]
+  refine Absorbs.mono_right ?_ hs
+  rw [ht.absorbs_biUnion]
   have hx_fstsnd : x.fst + x.snd ⊆ U := add_subset_iff.mpr fun z1 hz1 z2 hz2 ↦
     h'' <| mk_mem_prod hz1 hz2
   refine' fun y _ => Absorbs.mono_left _ hx_fstsnd
   rw [← Set.singleton_vadd, vadd_eq_add]
-  exact (absorbent_nhds_zero hx.1.1).absorbs.add hx.2.2.absorbs_self
+  exact Absorbs.add (absorbent_nhds_zero hx.1.1 _) hx.2.2.absorbs_self
```
Comment (YaelDillies) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:260]: Is dot notation not working here?

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
+/-
+Copyright (c) 2023 Yury Kudryashov. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yury Kudryashov
+-/
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:5]:
```suggestion
/-
Copyright (c) 2020 Jean Lo, Yury Kudryashov. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Jean Lo,Yury Kudryashov
-/
```
seems more accurate. See https://mathlib-changelog.org/v3/commit/05822370

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 6]
```diff
@@ -0,0 +1,247 @@
...
+import Mathlib.Data.Set.Pointwise.SMul
+import Mathlib.Topology.Bornology.Constructions
+
+#align_import analysis.locally_convex.basic from "leanprover-community/mathlib"@"f2ce6086713c78a7f880485f7917ea547a215982"
+
+/-!
+# Definitions of `Absorbs` and `Absorbent`
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:12]: Can we have a mathematically readable name?

Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean:12]: Could you please update it as you prefer?

File: Mathlib/Topology/Bornology/Absorbs.lean (hunk 5 above)
Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean]: Indeed, I added the header as a placeholder, then forgot to update it.

File: Mathlib/Analysis/LocallyConvex/Bounded.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:260]: It timeouts for a reason I fail to understand.

Comment (YaelDillies) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean]: Can you leave a comment explaining that?

File: Mathlib/Topology/Bornology/Absorbs.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Topology/Bornology/Absorbs.lean:12]: Something like
```suggestion
# Absorption of sets
```

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 7]
```diff
@@ -251,13 +251,12 @@ theorem TotallyBounded.isVonNBounded {s : Set E} (hs : TotallyBounded s) :
...
-  rw [ht.absorbs_iUnion]
+  refine Absorbs.mono_right ?_ hs
+  rw [ht.absorbs_biUnion]
   have hx_fstsnd : x.fst + x.snd ⊆ U := add_subset_iff.mpr fun z1 hz1 z2 hz2 ↦
     h'' <| mk_mem_prod hz1 hz2
-  refine' fun y _ => Absorbs.mono_left _ hx_fstsnd
-  rw [← Set.singleton_vadd, vadd_eq_add]
-  exact (absorbent_nhds_zero hx.1.1).absorbs.add hx.2.2.absorbs_self
+  refine fun y _ => Absorbs.mono_left ?_ hx_fstsnd
+  exact Absorbent.vadd_absorbs (absorbent_nhds_zero hx.1.1) hx.2.2.absorbs_self
```
Comment (urkud) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:259]:
```suggestion
  -- TODO: with dot notation, Lean timeouts on the next line. Why?
  exact Absorbent.vadd_absorbs (absorbent_nhds_zero hx.1.1) hx.2.2.absorbs_self
```

File: Mathlib/Topology/Bornology/Absorbs.lean [hunk 8]
```diff
@@ -0,0 +1,256 @@
...
+
+namespace Absorbent
+
+section SMul
+
+variable {M α : Type*} [Bornology M] [SMul M α] {s t : Set α}
+
+protected theorem subset (ht : Absorbent M s) (hsub : s ⊆ t) : Absorbent M t := fun x ↦
+  (ht x).mono_left hsub
+#align absorbent.subset Absorbent.subset
```
Comment (YaelDillies) [inline Mathlib/Topology/Bornology/Absorbs.lean:217]: `Absorbs` uses `.mono`. Would you therefore be happy to change that to
```suggestion
protected theorem mono (ht : Absorbent M s) (hsub : s ⊆ t) : Absorbent M t := fun x ↦
  (ht x).mono_left hsub
#align absorbent.subset Absorbent.subset
```

File: Mathlib/Analysis/LocallyConvex/Bounded.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean]: Done (I also added `Absorbent.vadd_absorbs`, so it's not visible here).

File: Mathlib/Topology/Bornology/Absorbs.lean (hunk 8 above)
Comment (urkud) [reply Mathlib/Topology/Bornology/Absorbs.lean]: Done. Also added deprecated aliases here and there. Let's see if it compiles.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Comment by ADedecker** [comment]
Thanks!

bors merge
